### PR TITLE
Add Iterative Sets

### PR DESCRIPTION
**Pull request by flgrubm**
This pull request adds the implementation of iterative sets, which is part of my master's thesis[^1]. In particular, it contains the following:

- definitions of iterative multisets (V∞), iterative sets (V⁰) as well as several other related definitions
- several important properties
- a proof of closure properties of  V⁰ under several set and type-theoretic properties (e.g. (unordered/ordered) pairing, Π, Σ-types)

The formalization follows the proof ideas of [^2] and the corresponding Agda Unimath formalization[^3] more or less, as detailed in my thesis. There is also a second part about showing that V⁰ is a CwF that supports various structures, but this is still a work in proress, particularly the instantiation of Σ-structure, and another pull request will be made for that in the future.

This pull request is currently a draft because I've run into a few issues. I would really appreciate any feedback or guidance on them:
- There are some Performance issues: The module `Cubical.Data.IterativeSets.UnorderedPair` as well as `Cubical.Data.IterativeSets.OrderedPair` only typecheck within a reasonable amount of time if the option `--lossy-unification` is enabled. The file `Cubical.Data.IterativeSets.Pi` does not typecheck within a reasonable amount of time at all, not even with lossy unification (for this, I typechecked individual parts of the file, so I assume the whole thing should be correct as well).
- I have several "helper" lemmas that might be useful to have, e.g. `⊥≢Unit` (which I particularly need in the general version `⊥*≢Unit*`). I don't quite know where to put them.

Thank you for your help!

[^1]: https://grubmueller.dev/publications/2026-mt-iterative-sets/
[^2]: D. Gratzer, H. R. Gylterud, A. Mörtberg, and E. Stenholm, “The Category of Iterative Sets in Homotopy Type Theory and Univalent Foundations”, https://doi.org/10.1017/S0960129524000288
[^3]: https://elisabeth.stenholm.one/category-of-iterative-sets/iterative.set.html

### CODE REVIEW

File: Cubical/Data/IterativeMultisets/Base.agda [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+V∞ : Type (ℓ-suc ℓ)
+V∞ {ℓ} = W (Type ℓ) (λ x → x)
+
+open Cubical.Data.W.W.W renaming (sup-W to sup-∞) public
+
+private
+  variable
+    x y : V∞ {ℓ}
+
+overline = getShape
```
Comment (mortberg) [inline Cubical/Data/IterativeMultisets/Base.agda]: Please add a type

Comment (mortberg) [reply Cubical/Data/IterativeMultisets/Base.agda]: Also, are really overline and tilde such good names? getShape and getSubtree is maybe clearer?

File: Cubical/Data/IterativeMultisets/Base.agda [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+≡V∞-≃-≃Fib : (x ≡ y) ≃ ((overline x , tilde x) ≃Fib (overline y , tilde y))
+≡V∞-≃-≃Fib = compEquiv ≡V∞-≃-≡Fib (invEquiv (FibrationIP _ _))
+
+_≡Equiv_ : {B : Type ℓ} (f g : Fibration B ℓ') → Type (ℓ-max ℓ ℓ')
+f ≡Equiv g = Σ[ e ∈ f .fst ≃ g .fst ] f .snd ≡ (g .snd ∘ e .fst)
+
+_≡Transp_ : {B : Type ℓ} (f g : Fibration B ℓ') → Type (ℓ-max ℓ (ℓ-suc ℓ'))
+f ≡Transp g = Σ[ p ∈ f .fst ≡ g .fst ] f .snd ≡ (g .snd ∘ transport p)
+
+-- TODO: move this to a better place
```
Comment (mortberg) [inline Cubical/Data/IterativeMultisets/Base.agda]: Yeah, that would be good. Maybe Foundations.Transport?

File: Cubical/Data/IterativeSets/Base.agda [hunk 3]
```diff
@@ -0,0 +1,360 @@
+module Cubical.Data.IterativeSets.Base where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: This can be removed as all you need should be re-exported by Foundations.Prelude

File: Cubical/Data/IterativeSets/Bool.agda [hunk 4]
```diff
@@ -0,0 +1,38 @@
+module Cubical.Data.IterativeSets.Bool where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Bool.agda]: remove

File: Cubical/Data/IterativeSets/Empty.agda [hunk 5]
```diff
@@ -0,0 +1,35 @@
+module Cubical.Data.IterativeSets.Empty where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Empty.agda]: remove

File: Cubical/Data/IterativeSets/Fiber.agda [hunk 6]
```diff
@@ -0,0 +1,20 @@
+module Cubical.Data.IterativeSets.Fiber where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Fiber.agda]: remove

File: Cubical/Data/IterativeSets/Identity.agda [hunk 7]
```diff
@@ -0,0 +1,24 @@
+module Cubical.Data.IterativeSets.Identity where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Identity.agda]: remove

File: Cubical/Data/IterativeSets/Nat.agda [hunk 8]
```diff
@@ -0,0 +1,144 @@
+module Cubical.Data.IterativeSets.Nat where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: remove

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 9]
```diff
@@ -0,0 +1,70 @@
+{-# OPTIONS --lossy-unification #-}
+
+module Cubical.Data.IterativeSets.OrderedPair where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda]: remove

File: Cubical/Data/IterativeSets/Pi.agda [hunk 10]
```diff
@@ -0,0 +1,136 @@
+{-# OPTIONS --lossy-unification #-}
+
+-- TODO: make type checking terminate
+
+module Cubical.Data.IterativeSets.Pi where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Pi.agda]: remove

File: Cubical/Data/IterativeSets/Sigma.agda [hunk 11]
```diff
@@ -0,0 +1,79 @@
+{-# OPTIONS --lossy-unification #-}
+module Cubical.Data.IterativeSets.Sigma where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Sigma.agda]: remove

File: Cubical/Data/IterativeSets/Singleton.agda [hunk 12]
```diff
@@ -0,0 +1,56 @@
+{-# OPTIONS --lossy-unification #-}
+
+module Cubical.Data.IterativeSets.Singleton where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Singleton.agda]: remove

File: Cubical/Data/IterativeSets/Sum.agda [hunk 13]
```diff
@@ -0,0 +1,61 @@
+{-# OPTIONS --lossy-unification #-}
+
+module Cubical.Data.IterativeSets.Sum where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Sum.agda]: remove

File: Cubical/Data/IterativeSets/Unit.agda [hunk 14]
```diff
@@ -0,0 +1,25 @@
+module Cubical.Data.IterativeSets.Unit where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Unit.agda]: remove

File: Cubical/Data/IterativeSets/UnorderedPair.agda [hunk 15]
```diff
@@ -0,0 +1,126 @@
+{-# OPTIONS --lossy-unification #-}
+
+module Cubical.Data.IterativeSets.UnorderedPair where
+
+open import Cubical.Core.Everything
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/UnorderedPair.agda]: remove

File: Cubical/Data/IterativeSets/Base.agda [hunk 16]
```diff
@@ -0,0 +1,360 @@
...
+open import Cubical.Foundations.HLevels
+open import Cubical.Data.Sigma
+open import Cubical.Relation.Nullary using (¬_)
+open import Cubical.Foundations.GroupoidLaws
+open import Cubical.Functions.Fibration
+open import Cubical.Foundations.Transport
+open import Cubical.Foundations.Path
+open import Cubical.Foundations.Equiv.Fiberwise
+
+-- TODO: remove ⊥*-elim, Data.Unit, Data.Bool Data.SumFin once the statements that need them have found their way to a better place
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Has this been done?

File: Cubical/Data/IterativeSets/Base.agda [hunk 17]
```diff
@@ -0,0 +1,360 @@
...
+V⁰ = Σ[ x ∈ V∞ ] isIterativeSet x
+
+private
+  variable
+    x y z : V⁰ {ℓ}
+
+-- accessing the components
+
+overline : V⁰ {ℓ} → Type ℓ
+-- overline (sup-∞ A _ , _) = A
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Delete?

File: Cubical/Data/IterativeSets/Base.agda [hunk 18]
```diff
@@ -0,0 +1,360 @@
...
+overline = overline-∞ ∘ fst
+
+tilde-∞ : (x : V⁰ {ℓ}) → overline x → V∞ {ℓ}
+-- tilde (sup-∞ _ f , _) = f
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Delete?

File: Cubical/Data/IterativeSets/Base.agda [hunk 19]
```diff
@@ -0,0 +1,360 @@
...
+≡V⁰-≃-≃V⁰' {x = sup-∞ A f , itsx} {y = sup-∞ B g , itsy} =
+    let
+        x = sup-∞ A f , itsx
+        y = sup-∞ B g , itsy
+    in compEquiv (cong toFib , V⁰↪Fib .snd x y) (invEquiv (FibrationIP (toFib x) (toFib y)))
+
+isProp∈∞ : {z : V∞ {ℓ}} → isProp (z ∈∞ (x .fst))
+isProp∈∞ {x = x} {z = z} = isEmbedding→hasPropFibers (isEmbedding-tilde-∞ x) z
+
+-- TODO: move to better place
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: To embedding file?

File: Cubical/Data/IterativeSets/Base.agda [hunk 20]
```diff
@@ -0,0 +1,360 @@
...
+El⁰ : V⁰ {ℓ} → Type ℓ
+El⁰ = overline
+
+fromEmb' : (x : V⁰ {ℓ}) → (El⁰ x ↪ V⁰ {ℓ})
+fromEmb' (sup-∞ A f , its) = toEmb (sup-∞ A f , its) .snd
+
+isSetEl⁰ : (x : V⁰ {ℓ}) → isSet (El⁰ x)
+isSetEl⁰ {ℓ} x = Embedding-into-isSet→isSet {A = El⁰ {ℓ} x} {B = V⁰ {ℓ}} (fromEmb' x) (isSetV⁰ {ℓ})
+
+-- TODO move somewhere better
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Some Sigma file?

File: Cubical/Data/IterativeSets/Base.agda [hunk 21]
```diff
@@ -0,0 +1,360 @@
...
+
+       eqTotal : isEquiv total
+       eqTotal = subst isEquiv E≡total (E .snd)
+
+       goal : B a ≃ C a
+       goal .fst = fiberwise a
+       goal .snd = Cubical.Foundations.Equiv.Fiberwise.fiberEquiv B C fiberwise
+                    eqTotal a
+
+-- TODO: move this to some other place in the library
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Embedding file?

File: Cubical/Data/IterativeSets/Base.agda [hunk 22]
```diff
@@ -0,0 +1,360 @@
...
+∈⁰≃∈∞ {x = sup-∞ x α , itsetx} {z = sup-∞ z γ , itsetz} = propBiimpl→Equiv (isProp∈⁰ {x = sup-∞ x α , itsetx} {z = sup-∞ z γ , itsetz}) (isProp∈∞ {x = sup-∞ x α , itsetx} {z = sup-∞ z γ}) f g
+    where
+        f : (sup-∞ z γ , itsetz) ∈⁰ (sup-∞ x α , itsetx) → sup-∞ z γ ∈∞ sup-∞ x α
+        f (a , p) .fst = a
+        f (a , p) .snd = cong fst p
+        g : sup-∞ z γ ∈∞ sup-∞ x α → (sup-∞ z γ , itsetz) ∈⁰ (sup-∞ x α , itsetx)
+        g (a , p) .fst = a
+        g (a , p) .snd = Σ≡Prop isPropIsIterativeSet p
+
+-- TODO move to better place
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda]: Yes to all of them. Not sure where

File: Cubical/Data/IterativeSets/Base.agda (hunk 16 above)
Comment (mortberg) [reply Cubical/Data/IterativeSets/Base.agda]: Reading further I guess not? Don't forget to remove this comment once things have been moved to proper places

File: Cubical/Data/IterativeSets/Base.agda (hunk 22 above)
Comment (mortberg) [reply Cubical/Data/IterativeSets/Base.agda]: Maybe just move them to wherever you see fit and we can discuss it further?

File: Cubical/Data/IterativeSets/Bool.agda [hunk 23]
```diff
@@ -0,0 +1,38 @@
...
+
+open import Cubical.Foundations.Function
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.Isomorphism
+open import Cubical.Functions.Embedding
+open import Cubical.Foundations.HLevels
+open import Cubical.Data.Sigma
+open import Cubical.Relation.Nullary using (¬_)
+
+-- TODO: remove ⊥*-elim, Data.Unit, Data.SumFin once the statements that need them have found their way to a better place
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Bool.agda]: Same as above

File: Cubical/Data/IterativeSets/Bool.agda [hunk 24]
```diff
@@ -0,0 +1,38 @@
...
+open import Cubical.Data.IterativeSets.Base
+open import Cubical.Data.IterativeSets.UnorderedPair
+open import Cubical.Data.IterativeSets.Empty
+open import Cubical.Data.IterativeSets.Unit
+
+private
+  variable
+    ℓ : Level
+
+-- TODO: maybe move to some better place together with empty⁰≢singleton⁰
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Bool.agda]: Maybe a properties file gathering all properties of the various iterative sets that you construct?

File: Cubical/Data/IterativeSets/Nat.agda [hunk 25]
```diff
@@ -0,0 +1,144 @@
...
+open import Cubical.Data.IterativeSets.Base
+open import Cubical.Data.IterativeSets.Empty
+
+private
+  variable
+    ℓ ℓ' ℓ'' : Level
+    A A' : Type ℓ
+    B B' : A → Type ℓ
+
+-- TODO: move to a better place?
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: YEs

File: Cubical/Data/IterativeSets/Nat.agda [hunk 26]
```diff
@@ -0,0 +1,144 @@
...
+            where
+                ∈⁰×≡→⊥ : ((sup-∞ B g , isitsetBg) ∈⁰ (sup-∞ A f , isitsetAf)) × ((sup-∞ A f , isitsetAf) ≡ (sup-∞ B g , isitsetBg)) → ⊥
+                ∈⁰×≡→⊥ ((a , pa) , p) = ∈⁰-irrefl {x = (sup-∞ B g , isitsetBg)} (transport (cong (λ r → ((sup-∞ B g , isitsetBg) ∈⁰ r)) p) (a , pa))
+
+        E : Embedding (V⁰ {ℓ}) ℓ
+        E .fst = A ⊎ Unit* {ℓ}
+        E .snd .fst = ϕₓ
+        E .snd .snd = hasPropFibers→isEmbedding hpf
+
+-- TODO
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: ?

File: Cubical/Data/IterativeSets/Nat.agda [hunk 27]
```diff
@@ -0,0 +1,144 @@
+module Cubical.Data.IterativeSets.Nat where
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda:4]: Can you add a header specifying that this is the von Neumann encoding of naturals? In the long run maybe we want more versions...

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 28]
```diff
@@ -0,0 +1,70 @@
...
+private
+  variable
+    ℓ : Level
+    x y z : V⁰ {ℓ}
+
+private
+  variable
+    x≢y : ¬ (x ≡ y)
+
+-- TODO: maybe move to some better place together with empty⁰≢unit⁰
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda]: Maybe a new properties file? (see comment above)

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 29]
```diff
@@ -0,0 +1,70 @@
+{-# OPTIONS --lossy-unification #-}
+
+module Cubical.Data.IterativeSets.OrderedPair where
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda:6]: Add a header saying that this is the Norbert Wiener encoding?

File: Cubical/Data/IterativeSets/Nat.agda [hunk 30]
```diff
@@ -0,0 +1,144 @@
...
+                fro (inl (a , p)) = inl a , p
+                fro (inr p) = inr _ , p
+                sec : section to fro
+                sec (inl _) = refl
+                sec (inr _) = refl
+                ret : retract to fro
+                ret (inl _ , _) = refl
+                ret (inr _ , _) = refl
+        hpf : hasPropFibers ϕₓ
+        hpf (sup-∞ B g , isitsetBg) = isOfHLevelRespectEquiv 1 (invEquiv (eqFib (sup-∞ B g , isitsetBg))) (isProp⊎ (isEmbedding→hasPropFibers (isEmbedding-tilde (sup-∞ A f , isitsetAf)) (sup-∞ B g , isitsetBg)) (isSetV⁰ _ _) ∈⁰×≡→⊥)
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: Too long line

File: Cubical/Data/IterativeSets/Nat.agda [hunk 31]
```diff
@@ -0,0 +1,144 @@
...
+    caseSuc : (n : ℕ) → El⁰ (vonNeumannEncoding (lift (suc n))) ≃ Fin (suc n) → El⁰ (vonNeumannEncoding (lift (suc (suc n)))) ≃ Fin (suc (suc n))
+    caseSuc n indHyp = compEquiv (El⁰-vNE-suc≃El⁰-vNE⊎Unit* (suc n)) (isoToEquiv isom)
+      where
+        isom : Iso (El⁰ (vonNeumannEncoding (lift (suc n))) ⊎ Unit*) (Fin (suc (suc n)))
+        isom .Iso.fun (inl x) = fsuc (indHyp .fst x)
+        isom .Iso.fun (inr x) = fzero
+        isom .Iso.inv (zero , _) = inr tt*
+        isom .Iso.inv (suc m , sucm<sucsucn) = inl (invEq indHyp (predFin n (suc m , sucm<sucsucn)))
+        isom .Iso.sec (zero , _) = refl
+        isom .Iso.sec (suc m , sucm<sucsucn) = cong fsuc (secEq indHyp (predFin n (suc m , sucm<sucsucn))) ∙ fsuc-predFin-quasi-sec n (suc m , sucm<sucsucn) λ p → fznotfs (sym p)
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: Too long line?

File: Cubical/Data/IterativeSets/Nat.agda [hunk 32]
```diff
@@ -0,0 +1,144 @@
...
+        isom .Iso.ret (inl x) = cong inl (retEq indHyp x)
+        isom .Iso.ret (inr x) = refl
+        
+ℕ⁰ : V⁰ {ℓ}
+ℕ⁰ {ℓ} = fromEmb E
+    where
+        isinj : (w x : ℕ* {ℓ}) → vonNeumannEncoding w ≡ vonNeumannEncoding x → w ≡ x
+        isinj (lift n) (lift m) p = liftExt (Fin-inj n m (ua (compEquiv (invEquiv (vonNeumannOverline≃Fin n)) (compEquiv (pathToEquiv (cong overline p)) (vonNeumannOverline≃Fin m)))))
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Nat.agda]: Too long line?

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 33]
```diff
@@ -0,0 +1,70 @@
...
+isEmbOrderedPair⁰ : isEmbedding (orderedPair⁰ {ℓ})
+isEmbOrderedPair⁰ {ℓ} = injEmbedding isSetV⁰ inj
+    where
+        inj : {s t : V⁰ {ℓ} × V⁰ {ℓ}} → orderedPair⁰ s ≡ orderedPair⁰ t → s ≡ t
+        inj {s = x , y} {t = a , b} p = ΣPathP (helper (unorderedPair⁰≡unorderedPair⁰ .fst p)) -- x≡a,y≡b
+            where
+                x≡a-helper : ((singleton⁰ x ≡ singleton⁰ a) × (empty⁰ {ℓ} ≡ empty⁰ {ℓ})) ⊎ ((singleton⁰ x ≡ empty⁰) × (empty⁰ ≡ singleton⁰ a)) → x ≡ a
+                x≡a-helper (inl (p , _)) = invEq singleton⁰≡singleton⁰ p
+                x≡a-helper (inr (p , _)) = ⊥-elim (singleton⁰≢empty⁰ p)
+                helper : ((unorderedPair⁰ (singleton⁰ x) empty⁰ singleton⁰≢empty⁰ ≡ unorderedPair⁰ (singleton⁰ a) empty⁰ singleton⁰≢empty⁰) × (singleton⁰ (singleton⁰ y) ≡ singleton⁰ (singleton⁰ b))) ⊎ ((unorderedPair⁰ (singleton⁰ x) empty⁰ singleton⁰≢empty⁰ ≡ singleton⁰ (singleton⁰ b)) × (singleton⁰ (singleton⁰ y) ≡ unorderedPair⁰ (singleton⁰ a) empty⁰ singleton⁰≢empty⁰)) → ((x ≡ a) × (y ≡ b))
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda]: Too long line

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 34]
```diff
@@ -0,0 +1,70 @@
...
+                helper (inl (u , s)) .fst = x≡a-helper (unorderedPair⁰≡unorderedPair⁰ .fst u)
+                helper (inl (u , s)) .snd = invEq singleton⁰≡singleton⁰ (invEq singleton⁰≡singleton⁰ s)
+                helper (inr (p , _)) = ⊥-elim {A = λ _ → (x ≡ a) × (y ≡ b)} (unorderedPair⁰≢singleton⁰ p)
+                -- x≡a,y≡b : (x ≡ a) × (y ≡ b)
+                -- x≡a,y≡b = helper (unorderedPair⁰≡unorderedPair⁰ .fst p)
+
+orderedPair⁰≡orderedPair⁰ : {x y a b : V⁰ {ℓ}} → ((⟨ x , y ⟩⁰ ≡ ⟨ a , b ⟩⁰) ≃ ((x ≡ a) × (y ≡ b)))
+orderedPair⁰≡orderedPair⁰ {x = x} {y = y} {a = a} {b = b} = propBiimpl→Equiv (isSetV⁰ _ _) (isProp× (isSetV⁰ _ _) (isSetV⁰ _ _)) (PathPΣ ∘ (isEmbedding→Inj isEmbOrderedPair⁰ (x , y) (a , b))) (λ (x≡a , y≡b) → cong ⟨_, y ⟩⁰ x≡a ∙ cong ⟨ a ,_⟩⁰ y≡b)
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda]: Too long line?

File: Cubical/Data/IterativeSets/OrderedPair.agda [hunk 35]
```diff
@@ -0,0 +1,70 @@
...
+        inj {s = x , y} {t = a , b} p = ΣPathP (helper (unorderedPair⁰≡unorderedPair⁰ .fst p)) -- x≡a,y≡b
+            where
+                x≡a-helper : ((singleton⁰ x ≡ singleton⁰ a) × (empty⁰ {ℓ} ≡ empty⁰ {ℓ})) ⊎ ((singleton⁰ x ≡ empty⁰) × (empty⁰ ≡ singleton⁰ a)) → x ≡ a
+                x≡a-helper (inl (p , _)) = invEq singleton⁰≡singleton⁰ p
+                x≡a-helper (inr (p , _)) = ⊥-elim (singleton⁰≢empty⁰ p)
+                helper : ((unorderedPair⁰ (singleton⁰ x) empty⁰ singleton⁰≢empty⁰ ≡ unorderedPair⁰ (singleton⁰ a) empty⁰ singleton⁰≢empty⁰) × (singleton⁰ (singleton⁰ y) ≡ singleton⁰ (singleton⁰ b))) ⊎ ((unorderedPair⁰ (singleton⁰ x) empty⁰ singleton⁰≢empty⁰ ≡ singleton⁰ (singleton⁰ b)) × (singleton⁰ (singleton⁰ y) ≡ unorderedPair⁰ (singleton⁰ a) empty⁰ singleton⁰≢empty⁰)) → ((x ≡ a) × (y ≡ b))
+                helper (inl (u , s)) .fst = x≡a-helper (unorderedPair⁰≡unorderedPair⁰ .fst u)
+                helper (inl (u , s)) .snd = invEq singleton⁰≡singleton⁰ (invEq singleton⁰≡singleton⁰ s)
+                helper (inr (p , _)) = ⊥-elim {A = λ _ → (x ≡ a) × (y ≡ b)} (unorderedPair⁰≢singleton⁰ p)
+                -- x≡a,y≡b : (x ≡ a) × (y ≡ b)
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/OrderedPair.agda]: Delete commented code

File: Cubical/Data/IterativeSets/Pi.agda [hunk 36]
```diff
@@ -0,0 +1,136 @@
...
+  module _ {ℓA ℓA' ℓB : Level} {A : Type ℓA} {A' : Type ℓA'} {B : A' → Type ℓB} (f : A → A') (g : (x : A) → B (f x)) where
+    Σfun : A → Σ A' B
+    Σfun x .fst = f x
+    Σfun x .snd = g x
+
+    InjFstInj : Inj f → Inj Σfun
+    InjFstInj injf p = injf (cong fst p)
+
+private
+  module _ {ℓA ℓA' ℓB ℓB' : Level} {A : Type ℓA} {A' : Type ℓA'} {B : A → Type ℓB} {B' : A' → Type ℓB'} (setA' : isSet A') (f : A → A') (g : (x : A) → B x → B' (f x)) where
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Pi.agda]: Too long line?

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda [hunk 37]
```diff
@@ -0,0 +1,126 @@
...
+       filter : ((x ≡ a) ⊎ (x ≡ b)) × ((y ≡ a) ⊎ (y ≡ b)) → ((x ≡ a) × (y ≡ b)) ⊎ ((x ≡ b) × (y ≡ a))
+       filter (inl x≡a , inl y≡a) = ⊥-elim (x≢y (x≡a ∙ (sym y≡a)))
+       filter (inl x≡a , inr y≡b) = inl (x≡a , y≡b)
+       filter (inr x≡b , inl y≡a) = inr (x≡b , y≡a)
+       filter (inr x≡b , inr y≡b) = ⊥-elim (x≢y (x≡b ∙ (sym y≡b)))
+
+       f : unorderedPair⁰ x y _ ≡ unorderedPair⁰ a b _ → ((x ≡ a) × (y ≡ b)) ⊎ ((x ≡ b) × (y ≡ a))
+       f = filter ∘ destruct
+
+       -- TODO: make more efficient somehow
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/UnorderedPair/Base.agda:131]: Is this very slow?

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda [hunk 38]
```diff
@@ -0,0 +1,126 @@
...
+       g : ((x ≡ a) × (y ≡ b)) ⊎ ((x ≡ b) × (y ≡ a)) → unorderedPair⁰ x y _ ≡ unorderedPair⁰ a b _
+       g (inl (x≡a , y≡b)) = unorderedPair⁰-≢-witness-agnostic x≢y _ ∙∙ (λ i → unorderedPair⁰ (x≡a i) (y≡b i) (≢-move-i0→i x≡a y≡b i x≢y)) ∙∙ unorderedPair⁰-≢-witness-agnostic _ a≢b
+       g (inr (x≡b , y≡a)) = (unorderedPair⁰-≢-witness-agnostic x≢y _ ∙∙ (λ i → unorderedPair⁰ (x≡b i) (y≡a i) (≢-move-i0→i x≡b y≡a i x≢y)) ∙∙ unorderedPair⁰-≢-witness-agnostic _ (λ b≡a → a≢b (sym b≡a)) :> unorderedPair⁰ x y _ ≡ unorderedPair⁰ b a _) ∙ unorderedUnorderedPair⁰
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/UnorderedPair/Base.agda]: Too long lines

File: Cubical/Data/IterativeSets/Pi.agda [hunk 39]
```diff
@@ -0,0 +1,136 @@
+{-# OPTIONS --lossy-unification #-}
+
+-- TODO: make type checking terminate
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Pi.agda]: Maybe delete this file for now? Then we can merge everything else as it's fast enough?

You can then open another PR with only this file and I can experiment a bit with it

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda [hunk 40]
```diff
@@ -0,0 +1,126 @@
...
+open import Cubical.Data.Empty renaming (elim to ⊥-elim)
+open import Cubical.Relation.Nullary using (¬_)
+
+open import Cubical.Data.IterativeSets.Base
+
+private
+  variable
+    ℓ : Level
+
+-- TODO: (possibly) rename and move
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/UnorderedPair/Base.agda:24]: Yes and yes

File: Cubical/Data/IterativeSets/Base.agda [hunk 41]
```diff
@@ -0,0 +1,360 @@
+module Cubical.Data.IterativeSets.Base where
```
Comment (mortberg) [inline Cubical/Data/IterativeSets/Base.agda:1]: Maybe this could be split into Base and Properties? Then many of the properties that ended up in other places could be moved to the dedicated Properties file (see some of my other comments about adding a properties file)

**Review by mortberg — CHANGES_REQUESTED** [review]
Very nice stuff! I had lots of nitpicking questions and some suggestions for refactoring. 

It would be good to get everything that is fast to typecheck into the library and then make a draft PR with only the slow stuff. I can then experiment with tricks to speed things up.

File: Cubical/Data/IterativeMultisets/Base.agda (hunk 1 above)
Comment (flgrubm) [reply Cubical/Data/IterativeMultisets/Base.agda]: What about `index` and `elements`, potentially prefixed by `get`?

File: Cubical/Data/IterativeSets/Base.agda (hunk 20 above)
Comment (flgrubm) [reply Cubical/Data/IterativeSets/Base.agda]: I moved it to `Cubical.Foundations.Equiv.Fiberwise` for now, renaming it to `fiberwiseEquiv`

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda (hunk 40 above)
Comment (flgrubm) [reply Cubical/Data/IterativeSets/UnorderedPair/Base.agda:24]: Do you have any suggestions where to move the function, and what to call it?

File: Cubical/Data/IterativeMultisets/Base.agda (hunk 1 above)
Comment (flgrubm) [reply Cubical/Data/IterativeMultisets/Base.agda]: I renamed them now, see 46a460c

File: Cubical/Data/IterativeSets/Base.agda (hunk 41 above)
Comment (flgrubm) [reply Cubical/Data/IterativeSets/Base.agda:1]: I moved all the functions that were annotated with "TODO: move", etc, either to some existing places in the library or to the new modules `Cubical.Data.IterativeSets.Singleton.Properties` and `Cubical.Data.IterativeSets.UnorderedPair.Properties`. Is the `Cubical.Data.IterativeSets.Base` module okay now, or should I still move some to a dedicated `Properties` module?

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda (hunk 37 above)
Comment (flgrubm) [reply Cubical/Data/IterativeSets/UnorderedPair/Base.agda:131]: Yes, making the function `g`  a hole instead makes the file typecheck rather quickly, even without `--lossy-unification`

**Comment by mortberg** [comment]
Can you fix whitespace issues? See the feedback from the CI at https://github.com/agda/cubical/actions/runs/25011286262/job/73247402250?pr=1300

The problematic files are:

```

[ Violation detected ] Cubical/Data/IterativeSets/Base.agda
[ Violation detected ] Cubical/Data/IterativeSets/Fiber.agda
[ Violation detected ] Cubical/Data/IterativeSets/Identity.agda
[ Violation detected ] Cubical/Data/IterativeSets/Nat.agda
[ Violation detected ] Cubical/Data/IterativeSets/Sigma.agda
[ Violation detected ] Cubical/Data/IterativeSets/Singleton/Base.agda
[ Violation detected ] Cubical/Data/IterativeSets/Sum.agda
[ Violation detected ] Cubical/Data/IterativeSets/UnorderedPair/Base.agda
[ Violation detected ] Cubical/Data/Sum/Properties.agda
``

File: Cubical/Data/IterativeSets/Base.agda (hunk 41 above)
Comment (mortberg) [reply Cubical/Data/IterativeSets/Base.agda:1]: I guess it's fine for now and if we want we can split it up later

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda (hunk 40 above)
Comment (mortberg) [reply Cubical/Data/IterativeSets/UnorderedPair/Base.agda:24]: Hmm, not really... Let's leave it

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda (hunk 37 above)
Comment (mortberg) [reply Cubical/Data/IterativeSets/UnorderedPair/Base.agda:131]: But it's OK with --lossy-unification? If so then it's fine

**Review by mortberg — APPROVED** [review]
Everything looks good now. Thanks a lot for this! Will merge once the CI has been made happy (see my previous comment about whitespace)

File: Cubical/Data/IterativeSets/UnorderedPair/Base.agda (hunk 37 above)
Comment (flgrubm) [reply Cubical/Data/IterativeSets/UnorderedPair/Base.agda:131]: Okay, it does work fine with lossy unification

**Comment by mortberg** [comment]
Thanks a lot! Merged now. Can you make a draft PR with the Pi-types and I can take a look? Like I said in the meeting today a potential trick that could help is to make more intermediate definitions with types so that Agda does not have to infer as much stuff
